US03969351
A. 2-[[(3-Methyl-2-thienyl)methylene]amino]-4-nitrophenol
To a solution of 4-nitro-o-aminophenol (15.4 g, 0.1 mole) in 200 ml of ethanol, 3-methyl-2-thiophene carboxaldehyde (12.6 g, 0.1 mole) is added at room temperature. The mixture is allowed to stir for 1 hour and the precipitated yellow Schiff's Base is collected. Crystallization from acetonitrile yields 24.1 g of product, melting point 169°-171°C.

reactant | 4-nitro-o-aminophenol | 0.1 mole, 15.4 g | [N+](=O)([O-])C1=CC(=C(C=C1)O)N | C6H6N2O3
reactant | 3-methyl-2-thiophene carboxaldehyde | 0.1 mole, 12.6 g | CC1=C(SC=C1)C=O | C6H6OS
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-[[(3-Methyl-2-thienyl)methylene]amino]-4-nitrophenol | 24.1 g | CC1=C(SC=C1)C=NC1=C(C=CC(=C1)[N+](=O)[O-])O | C12H10N2O3S
